### ISSUE TITLE
Add fuel independence theorem statements (with sorry)

### ISSUE THREAD

**Issue by kim-em** [kim-em/lean-zip#15]
# Add fuel independence theorem statements (with sorry)

**Session type**: implementation

## Current state

- Phase 3 complete, zero sorries
- The spec decoder in `Zip/Spec/Deflate.lean` uses fuel parameters for
  termination in three recursive functions:
  1. `decodeSymbols` (line 308) — fuel for number of symbols per block
  2. `decodeDynamicTables.decodeCLSymbols` (line 375) — fuel for CL symbol decoding
  3. `decode.go` (line 416) — fuel for number of blocks
- VERIFICATION.md Phase 3 lists "TODO: Fuel independence of spec decode"
  as a remaining characterizing property

## Why this matters

Fuel independence proves the spec decode is well-defined — the result
depends only on the input bitstream, not on the arbitrary fuel parameter.
This issue creates the theorem statements; proofs will follow in a
dependent issue.

## Deliverables

Create `Zip/Spec/FuelIndependent.lean` (or add to `Deflate.lean` if
under ~800 lines) with these three theorem statements, each proved
with `sorry`:

### 1. `decodeSymbols_fuel_independent`

```lean
theorem decodeSymbols_fuel_independent
    (litLengths distLengths : List Nat) (bits : List Bool)
    (fuel : Nat) (result : List LZ77Symbol × List Bool) :
    decodeSymbols litLengths distLengths bits fuel = some result →
    ∀ k, decodeSymbols litLengths distLengths bits (fuel + k) = some result := by
  sorry
```

### 2. `decodeCLSymbols_fuel_independent`

```lean
theorem decodeCLSymbols_fuel_independent
    (clTable : List (Huffman.Spec.Codeword × Nat))
    (totalCodes : Nat) (acc : List Nat) (bits : List Bool)
    (fuel : Nat) (result : List Nat × List Bool) :
    decodeCLSymbols clTable totalCodes acc bits fuel = some result →
    ∀ k, decodeCLSymbols clTable totalCodes acc bits (fuel + k) = some result := by
  sorry
```

Note: `decodeCLSymbols` is a `where` clause in `decodeDynamicTables` —
may need to be promoted to a standalone `protected` definition for the
theorem to reference it.

### 3. `decode_fuel_independent`

```lean
theorem decode_fuel_independent
    (bits : List Bool) (fuel : Nat) (result : List UInt8) :
    decode bits fuel = some result →
    ∀ k, decode bits (fuel + k) = some result := by
  sorry
```

## File placement

Check `wc -l Zip/Spec/Deflate.lean`. If under ~800 lines, add theorems
there. Otherwise create `Zip/Spec/FuelIndependent.lean` and update
`Zip.lean` imports.

## Verification

- `lake build` passes (sorry is acceptable here)
- `lake exe test` passes
- The theorem statements type-check (no errors other than sorry warnings)

## Done criteria

- Three fuel independence theorem statements added
- All type-check with sorry
- Builds and tests pass

**Comment by kim-em** [comment]
Test: closing to verify dependency unblocking

**Comment by kim-em** [comment]
Reopening — was closed to test dependency unblocking

**Comment by kim-em** [comment]
Claimed by session `9b72e738-749d-45f9-9d55-3544b2d39d91` on branch `agent/9b72e738`

**Comment by kim-em** [comment]
Claimed by session `6d1c9b7b-79a5-44e0-abde-6138205447f3` on branch `agent/6d1c9b7b`

**Comment by kim-em** [comment]
Claimed by session `1a819277-2666-4839-b864-b346e6531a54` on branch `agent/1a819277`
